US08865704B2
3-[trans-4-(4-Butyryl-piperazine-1-carbonyl)-cyclohexylmethyl]-1-methyl-1H-quinazoline-2,4-dione
100 mg (0.26 mmol) of 1-Methyl-3-[trans-4-(piperazine-1-carbonyl)-cyclohexylmethyl]-1H-quinazoline-2,4-dione was dissolved in DCM (3 ml). 75 μL (0.52 mmol) of Et3N and then 41 μL (0.39 mmol) of butyryl chloride were added and the mixture was stirred at room temperature overnight. The solution was washed with a 0.4 M solution of Na2CO3, the organic phase was separated and dried over Na2SO4. The solvent was removed under reduced pressure and the crude material purified by column chromatography using acetone as eluent. In total 28 mg (yield 24%) of the titled compound were isolated.

reactant | 1-Methyl-3-[trans-4-(piperazine-1-carbonyl)-cyclohexylmethyl]-1H-quinazoline-2,4-dione | 0.26 mmol, 100 mg | CN1C(N(C(C2=CC=CC=C12)=O)C[C@@H]1CC[C@H](CC1)C(=O)N1CCNCC1)=O | C21H28N4O3
reactant | Et3N | 0.52 mmol, 75 μL | CCN(CC)CC | C6H15N
reactant | butyryl chloride | 0.39 mmol, 41 μL | C(CCC)(=O)Cl | C4H7ClO
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | 3-[trans-4-(4-Butyryl-piperazine-1-carbonyl)-cyclohexylmethyl]-1-methyl-1H-quinazoline-2,4-dione | 28 mg, yield 24% | C(CCC)(=O)N1CCN(CC1)C(=O)[C@@H]1CC[C@H](CC1)CN1C(N(C2=CC=CC=C2C1=O)C)=O | C25H34N4O4
